US09216972B2
To a mixture of methyl 3fluoro-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate (0.155 g, 0.698 mmol) and morpholine (0.304 mL, 3.49 mmol) in toluene (5.0 mL) at 0° C. was added titanium(IV) chloride (1M in toluene) (0.384 mL, 0.384 mmol) dropwise. The ice-bath was removed, and the orange, heterogeneous reaction mixture was stirred at room temperature for 16 hours. The heterogeneous, orange reaction mixture was filtered under reduced pressure through a pad of Celite which was then rinsed with toluene (3×10 mL). The pale yellow filtrate was concentrated under reduced pressure to give methyl 3fluoro-5-morpholino-7,8-dihydronaphthalene-2-carboxylate (0.122 g, 0.419 mmol, 60.0% yield). The product had an LC/MS M+1=292.2.

reactant | methyl 3fluoro-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carboxylate | 0.698 mmol, 0.155 g | FC=1C(=CC=2CCCC(C2C1)=O)C(=O)OC | C12H11FO3
reactant | morpholine | 3.49 mmol, 0.304 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium(IV) chloride | 0.384 mmol, 1M, 0.384 mL | [Ti](Cl)(Cl)(Cl)Cl
product | methyl 3fluoro-5-morpholino-7,8-dihydronaphthalene-2-carboxylate | 0.419 mmol, 0.122 g, 60.0% yield | FC=1C(=CC=2CCC=C(C2C1)N1CCOCC1)C(=O)OC | C16H18FNO3
